US04603125
Methyl N-[3-(N-benzylmethylamino)-4-nitrophenyl]carbamate
A stirred solution of 3-(N-benzylmethylamino)-4-nitroaniline (2.2 g, 8.5 mM) in dry dimethoxyethane (15 ml) and pyridine (4 ml) was treated dropwise with methyl chloroformate (10 mM) at 0° C. The mixture was allowed to warm slowly to 20° C. and after 3 h was quenched with water (5 ml). Volatile solvents were removed under vacuum and the residue was extracted with ethyl acetate. After successive washings with aqueous methanesulfonic acid, water, aqueous KHCO3 and brine the organic layer was dried over Na2SO4. Removal of the solvent and chromatography of the residue on silica gel in ethyl acetate-petroleum ether (3:7) gave the product as a bright red oil (2.25 g, 84% yield).

reactant | 3-(N-benzylmethylamino)-4-nitroaniline | 8.5 mM, 2.2 g | C(C1=CC=CC=C1)CNC=1C=C(N)C=CC1[N+](=O)[O-] | C14H15N3O2
reactant | methyl chloroformate | 10 mM | ClC(=O)OC | C2H3ClO2
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | Methyl N-[3-(N-benzylmethylamino)-4-nitrophenyl]carbamate | 2.25 g, 84% yield | C(C1=CC=CC=C1)CNC=1C=C(C=CC1[N+](=O)[O-])NC(OC)=O | C16H17N3O4
